US20010027196A1
To a stirred suspension of 300 mg (1.10 mmol) 2-amino-6-oxo-4-(2-pyridin-2-yl-ethylsulfanyl)-1,6-dihydro-pyrimidine-5-carbonitrile in 10 ml dichloromethane was added 0.49 ml (2.20 mmol) 2,6-di-tert-butylpyridine and the mixture was ultrasonicated for 30 minutes. 0.18 ml (1.10 mmol) triflic anhydride was then added dropwise at 0° C. and stirring continued at room temperature for 16 hours. The reaction mixture was then diluted with 5 ml methanol, 2 g kieselgel was added, and the mixture was concentrated in vacuo. Chromatography (ethyl acetate) afforded 290 mg (65%) trifluoromethanesulfonic acid 2-amino-5-cyano-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-4-yl ester as a light yellow crystalline solid. ES-MS m/e (%): 406 (M+H+, 100).

reactant | 2-amino-6-oxo-4-(2-pyridin-2-yl-ethylsulfanyl)-1,6-dihydro-pyrimidine-5-carbonitrile | 1.10 mmol, 300 mg | NC=1NC(C(=C(N1)SCCC1=NC=CC=C1)C#N)=O | C12H11N5OS
reactant | 2,6-di-tert-butylpyridine | 2.20 mmol, 0.49 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | triflic anhydride | 1.10 mmol, 0.18 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
product | trifluoromethanesulfonic acid 2-amino-5-cyano-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-4-yl ester | 290 mg, 65% | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)SCCC1=NC=CC=C1 | C13H10F3N5O3S2
